US07601722B2
A solution of 2-fluoro-4-methylaniline (6.8 mL, 60 mmol) in tetrahydrofuran (200 mL) was cooled to −78° C. and treated with n-butyllithium (26 mL of a 2.5 M solution in hexanes, 66 mmol) and stirred for 1 h. A solution of 2-fluoronitrobenzene (6.3 mL, 60 mmol) in tetrahydrofuran (20 mL) was added dropwise over 5 min, and the reaction mixture was stirred at −78° C. for 0.5 h, then warmed to 22° C. After 16 h, the reaction mixture was concentrated, diluted with ethyl ether (200 mL), washed with 2 M hydrochloric acid (200 mL), dried (Na2SO4), and concentrated to a black oil. A solution of this black oil in a mixture of methanol (100 mL) and ethyl acetate (100 mL) was treated with 10% palladium on carbon (1 g) and stirred under a hydrogen atmosphere at 65 psi for 2 h, and then the reaction mixture was filtered, and concentrated. Flash chromatography (SiO2, 10→100% dichloromethane/hexanes) provided N-(2-fluoro-4-methylphenyl)benzene-1,2-diamine (7.0 g) as an orange solid:

reactant | 2-fluoro-4-methylaniline | 60 mmol, 6.8 mL | FC1=C(N)C=CC(=C1)C | C7H8FN
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-fluoronitrobenzene | 60 mmol, 6.3 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(2-fluoro-4-methylphenyl)benzene-1,2-diamine | 7.0 g | FC1=C(C=CC(=C1)C)NC=1C(=CC=CC1)N | C13H13FN2
